* Bandgap Voltage Reference
* Produces temperature-stable 1.25V reference
* Uses PTAT and CTAT currents for compensation
* Classic Brokaw bandgap topology

* Power Supply
Vdd vdd 0 DC 3.3V

* Bias Current Source
I_bias vdd bias 10u

* Current Mirror (PMOS)
M_p1 bias bias vdd vdd PMOS W=10u L=1u
M_p2 col1 bias vdd vdd PMOS W=10u L=1u
M_p3 col2 bias vdd vdd PMOS W=10u L=1u

* BJT Pair (different areas for delta-Vbe)
* Q1: 1x area, Q2: 8x area
Q1 col1 col1 e1 NPN AREA=1
Q2 col2 col2 e2 NPN AREA=8

* Emitter resistors
* R1 sets the PTAT current: I = (kT/q * ln(8)) / R1
R1 e1 0 10k
R2 e2 node_r2 1.25k
R3 node_r2 0 10k

* Output buffer (emitter follower)
Q_buf col1 out_int output NPN AREA=2
R_load output 0 10k

* Startup circuit
R_start vdd start_node 100k
M_start start_node start_node col1 0 NMOS W=1u L=1u

* Output capacitor for stability
C_out output 0 100p

* BJT Models
.MODEL NPN NPN (IS=1e-15 BF=100 VA=100 TF=0.1n)
.MODEL PMOS PMOS (VTO=-0.7 KP=50u LAMBDA=0.04)
.MODEL NMOS NMOS (VTO=0.7 KP=110u LAMBDA=0.04)

* DC Analysis
.DC Vdd 1.5 5 0.01

* Temperature Analysis  
.DC TEMP -40 125 5

* AC Analysis for stability
.AC DEC 20 1 100MEG

* Measurements
.MEASURE DC Vbg_nom FIND V(output) AT Vdd=3.3
.MEASURE DC Vbg_min FIND V(output) AT Vdd=1.8
.MEASURE DC Line_reg PARAM (Vbg_at_5V - Vbg_at_2V)/(5-2)*100

* Expected Results:
* - Output voltage: ~1.25V (bandgap of silicon)
* - Temperature coefficient: <50ppm/°C
* - Line regulation: <0.1%/V
* - Minimum supply: ~1.5V

* Theory:
* Vbg = Vbe + (kT/q) * ln(n) * (R2+R3)/R1
* Where n = area ratio = 8
* Vbe has negative tempco (~-2mV/°C)
* (kT/q)*ln(n) has positive tempco
* Proper ratio cancels temperature dependence

.END
