* Buck Converter - Step-Down DC-DC Converter
* Converts 12V input to 5V output
* Switching frequency: 100kHz
* Output power: up to 10W

* Power Supply
Vin input 0 DC 12V

* MOSFET Switch (simplified as voltage-controlled switch)
* In real simulation, use NMOS model
* Use a PMOS as the high-side device (source+bulk tied to Vin)
M1 sw_node gate input input PMOS W=20u L=0.18u

* Gate drive signal (PWM at 100kHz, 42% duty cycle for 5V output)
* Increased amplitude so high-side NMOS can be driven (peak ~16V)
Vgate gate 0 PULSE(0 16 0 10n 10n 3.274u 10u)

* Freewheeling diode (anode at switch node, cathode at ground)
D1 sw_node 0 DFAST

* Output inductor (100uH)
L1 sw_node output 100u IC=0.5

* Output capacitor (100uF)
C1 output 0 100u IC=5

* Load resistor (5 ohm = 1A at 5V)
Rload output 0 5

* MOSFET Model
.MODEL NMOS NMOS (VTO=0.7 KP=110u LAMBDA=0.04)
.MODEL PMOS PMOS (VTO=-0.7 KP=80u LAMBDA=0.02)

* Diode Model  
.MODEL DFAST D (IS=1e-14 RS=0.01 BV=30)

* Transient Analysis - Run for 500us to see steady state
.TRAN 100n 500u

* Measurements
.MEASURE TRAN Vout_avg AVG V(output) FROM=400u TO=500u
.MEASURE TRAN Vout_ripple PP V(output) FROM=400u TO=500u
.MEASURE TRAN IL_avg AVG I(L1) FROM=400u TO=500u

* Expected Results:
* - Output voltage: ~5V average
* - Output ripple: ~50mV peak-to-peak
* - Inductor current: ~1A average with triangular ripple

.END
